US08669266B2
(iv) 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-naphthalene-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester
To a solution of 550 mg of 4-Hydroxy-7-methyl-naphthalene-2-carboxylic acid and 1.0 g of 4-((S)-2-Amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester in 8.3 ml of DMF, 458 mg of HOBT and 573 mg of EDC was added and the reaction mixture was stirred for 16 h at RT. Then, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with n-heptane/ethyl acetate (1/1). The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 1.0 g.

reactant | 4-Hydroxy-7-methyl-naphthalene-2-carboxylic acid | 550 mg | OC1=CC(=CC2=CC(=CC=C12)C)C(=O)O | C12H10O3
reactant | 4-((S)-2-Amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester | 1.0 g | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)N)=O | C18H33N3O5
reactant | HOBT | 458 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 573 mg
solvent | DMF | 8.3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-naphthalene-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CC2=CC(=CC=C2C(=C1)O)C)=O | C30H41N3O7
